Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.65436452806
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.15843683294
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[H:10].[H:5],1.57160816918
[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.23047614287
[H:11].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.99448287126
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:5],1.92601147911
[O:1]=[C:2]([H:3])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:4][H:5]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.42377697473
[H:1][C:2]([H:3])[O:4][C@:5]1([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],-1.47447105352
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]1[O:5]/[C:6]1=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.93859579713
[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9],-3.63123996351
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:9](\[H:10])[C:11][H:12].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-3.6596930881
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.92155497463
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.7464624170299998
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.632759564896
[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.24044503561
[C:10]#[C:11][H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12],-4.9045484134300015
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.49418682319
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:4],1.45352703576
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2]=[O:3],1.3519440184399998
[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[O:8][H:9]>>[C:1]#[C:2][O:3][H:4].[C:5](#[C:6][H:7])[O:8][H:9],0.705038265501
[H:1][O:2][C:3][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.22028163039
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[O:1][C:2]#[C:3][H:4].[O:5][C:6]#[C:7][H:8],1.76412579002
[H:1][O:2][C@:3]([H:4])([C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.99768650998
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.78033052499
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4][H:5])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],5.14273418653
[C:4]([H:5])=[O:6].[O:1](/[C:2]([H:3])=[C:8](\[H:9])[C:10][H:11])[H:7]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11],-2.7859036027
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][O:9][C:10]([H:11])[H:12].[H:7],2.6978486565
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:7].[O:1][C:2]([C:3]#[C:4][H:5])=[C:6]=[C:8]([H:9])[H:10],4.72228918315
